US08871756B2
4-[6-Methyl-4-(pyrrolidin-3-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
A mixture of tert-butyl 3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}pyrrolidine-1-carboxylate (50 mg, 0.096 mmol) and a solution of hydrochloride in ethyl acetate (30 mL, 4 M) was stirred at room temperature for 8 hours. The resulting mixture was concentrated in vacuo and the residue was purified by preparative HPLC and SPE to afford 18.4 mg of the desired product (yield was 45.3%). MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CD3OD) δ ppm 8.11-8.08 (d, J=6.4 Hz, 1 H), 7.95-7.88 (m, 2 H), 7.78-7.70 (m, 2 H), 7.68-7.56 (m, 2 H), 6.62 (s, 1 H), 5.75-5.70 (m, 1 H), 5.40 (s, 2 H), 4.70-4.50 (m, 2 H), 3.80-3.70 (m, 4 H), 3.65-3.48 (m, 2 H), 2.60-2.50 (m, 1 H), 2.46 (s, 3 H), 2.46-2.35 (m, 1 H).

reactant | tert-butyl 3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}pyrrolidine-1-carboxylate | 0.096 mmol, 50 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)OC2CN(CC2)C(=O)OC(C)(C)C)C)=O | C28H33N3O5S
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | 4 M, 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-[6-Methyl-4-(pyrrolidin-3-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 18.4 mg, yield was 45.3% | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)OC2CNCC2 | C23H25N3O3S
